US06639072B1
2,3-Dichloronitrobenzene (800 g, 4.17 moles) was dissolved in methanol (5.6 L) and charged into an autoclave. Raney nickel (80 g, 10% w/w) was added to the solution. The reaction mixture was hydrogenated at 80 psi for 3.5 hrs at 30° C. and filtered through celite. Methanol was distilled off to give 2,3-dichloroaniline (C6H3Cl2NH2).

reactant | 2,3-Dichloronitrobenzene | 4.17 moles, 800 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | methanol | 5.6 L | CO | CH4O
catalyst | Raney nickel | 80 g | [Ni] | Ni
product | 2,3-dichloroaniline | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
